US08058273B2
3-(3-fluoro-4-formyl-phenyl)-acrylic acid tert-butyl ester (2 g, 8 mmol) was dissolved in DCM (23 ml) and trifluoroacetic acid (6 ml). The mixture was stirred at room temperature for 6 h then the solvent was evaporated under vacuo giving 1.62 g of 3-(3-fluoro-4-formyl-phenyl)-acrylic acid

reactant | 3-(3-fluoro-4-formyl-phenyl)-acrylic acid tert-butyl ester | 8 mmol, 2 g | C(C)(C)(C)OC(C=CC1=CC(=C(C=C1)C=O)F)=O | C14H15FO3
solvent | DCM | 23 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(3-fluoro-4-formyl-phenyl)-acrylic acid | 1.62 g, Yield: quantitative | FC=1C=C(C=CC1C=O)C=CC(=O)O | C10H7FO3
